US06747023B1
2-[2-[[4-[(5-Chloroindol-2-yl)sulfonyl]-2-ethylpiperazin-1-yl]carbonyl]pyrimidin-5-yl]pyridine N-oxide
To a methylene chloride solution (50 ml) of 4-[(5-chloroindol-2-yl)sulfonyl]-2-(ethyl)-1-[(5-(pyridin-2-yl)pyrimidin-2-yl]carbonyl]piperazine (234 mg) was added metachloroperbenzoic acid (1.58 g) at room temperature. The resulting mixture was stirred for 5 hours. An aqueous solution (20 ml) of sodium sulfite was added, followed by stirring for 1 hour. To the reaction mixture were added a saturated aqueous solution of sodium bicarbonate and methylene chloride. The water layer was extracted thrice with methylene chloride. The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (methanol:methylene chloride=1:50). The oil thus obtained was solidified from ethanol-diethyl ether, whereby the title compound (44.1 mg) was obtained as a pale yellow solid. MS (FAB) m/z: 527 [(M+H)+, Cl35], 529 [(M+H)+, Cl37].

reactant | 4-[(5-chloroindol-2-yl)sulfonyl]-2-(ethyl)-1-[(5-(pyridin-2-yl)pyrimidin-2-yl]carbonyl]piperazine | 234 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1=NC=C(C=N1)C1=NC=CC=C1)CC | C24H23ClN6O3S
reactant | metachloroperbenzoic acid | 1.58 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | 20 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol diethyl ether | C(C)O.C(C)OCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-[[4-[(5-Chloroindol-2-yl)sulfonyl]-2-ethylpiperazin-1-yl]carbonyl]pyrimidin-5-yl]pyridine N-oxide | 44.1 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1=NC=C(C=N1)C1=[N+](C=CC=C1)[O-])CC | C24H23ClN6O4S
